US08357705B2
N-[1-cyano-2-(1H-indol-3-yl)ethyl]-N-(4-dimethylamino-4-phenylcyclohexyl)-2,2,2-trifluoracetamide (non-polar diastereomer)
A solution of 2-(4-dimethylamino-4-phenylcyclohexylamino)-3-(1H-indol-3-yl)propionamide (non-polar diastereomer) (500 mg, 1.23 mmol) in anhydrous tetrahydrofuran (30 mL) and triethylamine (2 mL) was cooled to −15° C. and mixed with trifluoroacetic anhydride (777 mg, 514 μL, 3.69 mmol). The mixture was stirred for 3 h at −15° C. and then concentrated to low volume in a vacuum. The residue was mixed with 5% sodium hydrogencarbonate solution (30 mL) and the aqueous suspension extracted with dichloromethane (3×20 mL). The combined organic phases were ? with sodium hydrogencarbonate solution (3×20 mL), dried with sodium sulphate and concentrated to low volume in a vacuum. The raw product (539 mg) was purified by flash chromatography (85 g, 20×3.7 cm) with dichloromethane/methanol (95:5).

reactant | 2-(4-dimethylamino-4-phenylcyclohexylamino)-3-(1H-indol-3-yl)propionamide | 1.23 mmol, 500 mg | CN(C1(CCC(CC1)NC(C(=O)N)CC1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C25H32N4O
reactant | trifluoroacetic anhydride | 3.69 mmol, 514 μL, 777 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | N-[1-cyano-2-(1H-indol-3-yl)ethyl]-N-(4-dimethylamino-4-phenylcyclohexyl)-2,2,2-trifluoracetamide | C(#N)C(CC1=CNC2=CC=CC=C12)N(C(C(F)(F)F)=O)C1CCC(CC1)(C1=CC=CC=C1)N(C)C | C27H29F3N4O
